US05334716
To a solution of 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyric acid (244 mg) in ethanol was added 1N sodium hydroxide. After removal of the solvent, the residue was dissolved in benzene, filtered through a cotton filter, and evaporated in vacuo to give sodium 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyrate (240 mg).

reactant | 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyric acid | 244 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)O)C=CC1 | C40H44N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | sodium 4-[1-[3-[bis(4-isobutylphenyl)methylamino]benzoyl]indolizin-3-yl]butyrate | 240 mg | C(C(C)C)C1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)[O-])C=CC1.[Na+] | InChI=1S/C40H44N2O3.Na/c1-27(2)23-29-14-18-31(19-15-29)39(32-20-16-30(17-21-32)24-28(3)4)41-34-10-7-9-33(25-34)40(45)36-26-35(11-8-13-38(43)44)42-22-6-5-12-37(36)42;/h5-7,9-10,12,14-22,25-28,39,41H,8,11,13,23-24H2,1-4H3,(H,43,44);/q;+1/p-1
